US05385894
3-(4,4'-Dimethoxybenzhydryl)-6-(N-methyl-N-isobutyrylcarbamoyl)-amino-2-propyl-quinazolin-4(3H)-one
To a suspension of 81.5 mg (2.7 mmol) of 80% NaH in 3 ml of dry DMF at 0° C. under nitrogen was added dropwise a solution of 1.03 g (2.5 mmol) of 6-amino-3-(4,4'-dimethoxybenzhydryl)-2-propyl-quinazolin-4(3H)-one dissolved in 3 ml of DMF. The resulting mixture was stirred for 30 minutes and was then treated with 0.35 ml (2.7 mmol) of isobutylchloroformate neat. The solution was stirred for 30 minutes and then treated with 2.97 ml (2.97 mmol) of a 1M solution of lithium hexamethyldisilazide in THF. The dark solution was stirred for a further 30 minutes at 0° C. and then was treated with 0.2 ml (3.26 mmol) of iodomethane neat. The mixture was stirred overnight at room temperature, poured into 50 ml of EtOAc and washed consecutively with water (2×10 ml), brine (1×10 ml) and dried over MgSO4 . The product was purified by flash chromatography over silica gel eluting with 30% EtOAc/hexanes to give 0.9 g (1.7 mmol) of an oil. 71% yield. 1H-NMR (CDCl3): 0.82-0.91 (m, 6H), 0.96 (d, 3H, J=6.8 Hz), 1.52 (m, 2H), 1.88 (m, 1H), 2.67 (bt, 2H), 3.35 (s, 3H), 3.80 (s, 6H), 3.90 (d, 2H, J=6.6 Hz), 6.87 (d, 4H, J=8.8 Hz), 7.20 (d, 4H, J=8.8 Hz), 7.61 (m, 1H), 7.78 (m, 1H), 8.01 (d, 1H, 2 Hz).

reactant | NaH | 2.7 mmol, 81.5 mg | [H-].[Na+]
reactant | 6-amino-3-(4,4'-dimethoxybenzhydryl)-2-propyl-quinazolin-4(3H)-one | 2.5 mmol, 1.03 g | NC=1C=C2C(N(C(=NC2=CC1)CCC)C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | C26H27N3O3
reactant | isobutylchloroformate | 2.7 mmol, 0.35 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | iodomethane | 3.26 mmol, 0.2 ml | IC | CH3I
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 3-(4,4'-Dimethoxybenzhydryl)-6-(N-methyl-N-isobutyrylcarbamoyl)-amino-2-propyl-quinazolin-4(3H)-one | 1.7 mmol, 0.9 g, 71% yield | COC1=CC=C(C(C2=CC=C(C=C2)OC)N2C(=NC3=CC=C(C(=C3C2=O)N)C(N(C(C(C)C)=O)C)=O)CCC)C=C1 | C32H36N4O5
